US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(2-morpholin-4-yl-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 2-Morpholin-4-yl-pyridine-3-carbaldehyde (31.2 mg, 0.163 mmol) were reacted to produce 32 mg (42%) of the title compound. mp: 150° C., 1H NMR (300 MHz, DMSO-d6): 12.95 (s, 1H), 8.33 (d, J=5 Hz, 1H), 8.04 (s, 1H), 7.98 (d, J=8 Hz, 1H), 7.73 (s, 1H), 7.19 (s, 1H), 7.09 (m, 1H), 6.34 (s, 1H), 6.32 (s, 1H), 5.21 (t, J=8 Hz, 1H), 3.64 (s, 4H), 3.29 (s, 1H), 3.06 (m, 4H), 2.87 (s, 1H), 2.78 (s, 1H), 2.59 (d, J=8 Hz, 1H), 2.26 (d, J=8 Hz, 1H), 1.39 (d, J=8 Hz, 1H). MS: 510, 512 (M+H), HPLC: 2.02 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 2-Morpholin-4-yl-pyridine-3-carbaldehyde | 0.163 mmol, 31.2 mg | N1(CCOCC1)C1=NC=CC=C1C=O | C10H12N2O2
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(2-morpholin-4-yl-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 32 mg, 42% | BrC=1C(=C2C(=NC1)NC(=N2)C=2C(=NC=CC2)N2CCOCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C23H24BrN7O2
